US06384036B1
Part A: Preparation of benzyl 3-(4-tert-butoxycarbonylpiperizin-1-ylsulfonyl)-2(R)-methylpropionate
A 100 mL round bottom flask equipped with magnetic stirring bar and N2 inlet was charged with 5.2 g benzyl 3-chlorosulfonyl-2(R)-methylpropionate in 50 mL CH2Cl2. The flask was cooled to 0° C. and charged with 3.5 g N-Boc-piperazine and 2.9 mL (1.1 eq.) NEt3. The reaction was stirred 30 minutes at 0° C., concentrated in vacuo and partitionned between ethyl acetate/water. The combined organics were washed with 5% aqueous. citric acid, saturated aqueous sodium bicarbonate, brine, and concentrated in vacuo to yield a yellow liquid. Purification via flash chromatography on silica gel (30% ethyl acetate/hexane) yielded 7.2 g (90%) product as a clear oil.

reactant | benzyl 3-chlorosulfonyl-2(R)-methylpropionate | 5.2 g | ClS(=O)(=O)C[C@@H](C(=O)OCC1=CC=CC=C1)C | C11H13ClO4S
reactant | N-Boc-piperazine | 3.5 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NEt3 | 2.9 mL, 1.1 eq. | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | benzyl 3-(4-tert-butoxycarbonylpiperizin-1-ylsulfonyl)-2(R)-methylpropionate | 7.2 g, 90% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)OCC1=CC=CC=C1)C | C20H30N2O6S
